US06596746B1
A. Ethyl-2-tert-butoxycarbonyloxyamino-4-trifluoromethyl-thiazole-5-carboxylate
A suspension of ethyl-2-amino-4-trifluoromethyl-thiazole-5-carboxylate (5.05 g, 21.02 mmol), di-t-butyldicarbonate (4.82 g, 22.07 mmol) and 4-dimethylaminopyridine (260 mg, 2.1 mmol) in dichloromethane (209 mL) was stirred under nitrogen for 1.5 h. The solvent was evaporated in vacuo. The residue was chromatographed on a silica gel column. Elution with 5% EtOAc in hexanes, followed by 15% EtOAc in hexanes afforded the title compound (6.57 g, 92%) as a white solid.

reactant | ethyl-2-amino-4-trifluoromethyl-thiazole-5-carboxylate | 21.02 mmol, 5.05 g | C(C)OC(=O)C1=C(N=C(S1)N)C(F)(F)F | C7H7F3N2O2S
reactant | di-t-butyldicarbonate | 22.07 mmol, 4.82 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 2.1 mmol, 260 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 209 mL | ClCCl | CH2Cl2
product | Ethyl-2-tert-butoxycarbonyloxyamino-4-trifluoromethyl-thiazole-5-carboxylate | 6.57 g, 92% | C(C)OC(=O)C1=C(N=C(S1)NOC(=O)OC(C)(C)C)C(F)(F)F | C12H15F3N2O5S
